US08609692B2
2-bromo-6-fluorobenzaldehyde
1-Bromo-3-fluorobenzene (17.3 g, 100 mmol) was added over 5 min to a solution of lithium diisopropylamide (prepared from the addition of 40 mL of 2.5 N-butyllithium in hexanes to 11.5 g of 0.1 M diisopropylamine at 0° C.) in THF at −70° C. The mixture was stirred cold for 1 h, after which DMF (8 mL) was added over 10 min. The mixture was stirred at −70° C. for an additional 40 min, then was treat with acetic acid (26 g). The mixture was allowed to warm to ambient temperature, transferred into a mixture of MTBE (200 mL), water (200 mL), and 4 N hydrochloric acid (150 mL). The layers were partitioned and the organic portion was concentrated under reduced pressure to provide the title compound. MS (DCI/NH3) m/z 202 (M+H)+.

reactant | 1-Bromo-3-fluorobenzene | 100 mmol, 17.3 g | BrC1=CC(=CC=C1)F | C6H4BrF
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | N-butyllithium | [Li+].CCC[CH2-]
reactant | diisopropylamine | 0.1 M, 11.5 g | C(C)(C)NC(C)C | C6H15N
reactant | hydrochloric acid | 4 N, 150 mL | Cl | ClH
reactant | THF | C1CCOC1 | C4H8O
solvent | water | 200 mL | O | H2O
solvent | MTBE | 200 mL | CC(C)(C)OC | C5H12O
solvent | acetic acid | 26 g | C(C)(=O)O | C2H4O2
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 2-bromo-6-fluorobenzaldehyde | BrC1=C(C=O)C(=CC=C1)F | C7H4BrFO
